US03979390
A mixture of γ-chloro-2,4-difluorobutyrophenone (14.2 g), 4-(4-chlorophenyl)-4-hydroxypiperidine (13.8 g), anhydrous potassium carbonate (9.0 g), potassium iodide (0.5 g) and dimethylformamide (170 ml) was heated for 20 hours at 90° - 110°C. After cooling, the reaction mixture was diluted with water and extracted with ether. The ethereal extract was sufficiently washed with water, dried over anhydrous sodium sulfate, treated with hydrogen chloride and then concentrated. Trituration and recrystallization of the residue from methanol gave γ-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-2,4-difluorobutyrophenone hydrochloride. M.P. 245°C (decomposition).

reactant | γ-chloro-2,4-difluorobutyrophenone | 14.2 g | ClC(CC(C(=O)C1=CC=CC=C1)F)F | C10H9ClF2O
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | 13.8 g | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | potassium carbonate | 9.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | water | O | H2O
solvent | dimethylformamide | 170 ml | CN(C=O)C | C3H7NO
product | γ-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-2,4-difluorobutyrophenone hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)F)F)O | InChI=1S/C21H22ClF2NO2.ClH/c22-17-8-6-16(7-9-17)21(27)10-12-25(13-11-21)19(24)14-18(23)20(26)15-4-2-1-3-5-15;/h1-9,18-19,27H,10-14H2;1H
